Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Compazine / Reglan / amoxicillin
 
Attending: ___.
 
Chief Complaint:
generalized weakness, arm dropping, speaking in a 'robotic 
voice'

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ YO F with PMH of anatomic male to female surgery ___ years ago, 
migraines, febrile seizures as a child, anorexia as a teenager, 
depression, who presented to the ED with 3 months of episodes of 
decreased responsiveness, arm dropping lasting ~10 seconds - 1 
minute, and generalized weakness.

Per wife and patient, ___ had 1 episode of 'passing out' last 
___ thought to be ___ excessive heat, when she lost 
consciousness and fell. Patient endorsed head strike at that 
time. Afterwards, she did not have any additional episodes of 
syncope until about 3 months ago. 

At that time, she began having what her wife calls 'mini fugue' 
episodes several times a week while experiencing typical 
migraine headaches (she has migraines ___ times a week). 
Episodes are characterized by head drop, sometimes drooling, arm 
drop, shallow breathing, decreased responsiveness. Eyes are 
usually open but 'unfocused'. No loss of urinary or bladder 
continence. No shaking. Episodes last ~10 seconds to 1 minute, 
after which patient returns to normal. She usually does not 
respond to questions while the episodes are happening. However, 
she has had episodes while driving and is still able to maintain 
her hand on the wheel; eyes stay open. Additionally, she has had 
episodes while walking and is still able to continue walking.

On the morning of presentation, wife was driving patient to 
___ for a scheduled appointment. She states that 
___ was having 'mini fugue' episodes during the entire ride 
to ___. After getting out of the car, ___ was able to walk 
to the appointment although her arm was dropping and her gaze 
appeared unfocused. Patient was able to speak during the 
episode, although her speech was slow and sounded 'robotic'. 
After arriving at the ___, patient continued to feel 
unwell and was lowered to the floor. EMS was then called and 
brought the patient to the ED. VS per EMS were BP 122/76 HR 54 
RR 16 O2 100%.

Patient herself states that she is sometimes aware during these 
episodes, sometimes not completely aware. Whereas previously she 
would have these episodes several times a week, now she 
sometimes has them once an hour. She is not aware of any 
triggers. She states that her job as a ___ is 
'always stressful'. Per wife, patient frequently 'lies' to 
others about her gender reassignment surgery, which is a source 
of stress for her. She has also seemed more 'apologetic' towards 
her wife recently, apologizing frequently. Per patient and wife, 
at time of neurology evaluation her voice was back to normal.

Per wife, the evening prior to presentation, patient had another 
episode, this time associated with 'falling gracefully to the 
floor' without head strike. She had eaten a 35mg piece of 
chocolate THC yesterday evening. Patient's usual migraine 
headaches are associated with shooting pain on the R side of her
head, 'everything hurts', preceded by nausea. No vision changes. 


 
Past Medical History:
migraines
anorexia (teens)
ear tubes placed as a child
febrile seizures as a child
lyme disease
gender reassignment surgery ___ years ago)          
depression              

 
Social History:
___
Family History:
'every type of cancer' runs in the family
 
Physical Exam:
PHYSICAL EXAMINATION: 
Vitals: HR 50 117/78 18 100% RA 
General: Awake, cooperative, appears tired
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, although appears tired. Able to speak
fluently when encouraged, in a quiet voice. Frequently looks to
wife at bedside for support. Intact comprehension. Normal
prosidy. There were no paraphasic errors. Able to name both high
and low frequency objects.  No dysarthria or 'robotic voice'.
Able to follow both midline and appendicular commands. Flat
affect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. V: Facial
sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
***Effort dependent, occasional giveaway weakness, requires
frequent encouragement
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5   
R    5    5    5    5    5    5   5    5    5   5    5   

-Sensory: No deficits to light touch, pinprick, vibration,
throughout. No extinction to DSS. 

-Reflexes: diminished throughout
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     1      2      1     1
R   2     1      2      1     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor.  No dysmetria on FNF
bilaterally.

-Gait: Good initiation. Narrow-based, cautious gait. Able to 
walk
independently 

DISCHARGE EXAMINATION:
 Vitals: Temp: 98.0 (Tm 98.0), BP: 92/55 (92-105/54-69), HR: 50 
(47-66), RR: 16 (___), O2 sat: 98% (97-99), O2 delivery: Ra
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative, fluent speech with intact 
comprehension. Able to follow both midline and appendicular 
commands. 

-Cranial Nerves: EOMI without nystagmus. Facial sensation intact 
to light touch. Face symmetric at rest and with activation. 
Hearing intact to conversation. Palate elevates symmetrically. 
___ strength in trapezii bilaterally. Tongue protrudes in 
midline.

-Motor: No pronator drift bilaterally.
   Delt Bic Tri WrE FFl FE IP Quad Ham TA 
 L  5    ___   ___   5    5  5  
 R  5    ___   ___   5    5  5  

-Sensory: No deficits to light touch throughout. No extinction 
to DSS.

-DTRs: ___.

-Coordination: No intention tremor or dysmetria on FNF 
bilaterally.

 
Pertinent Results:
___ 05:40AM BLOOD WBC-6.2 RBC-3.77* Hgb-11.7 Hct-36.2 
MCV-96 MCH-31.0 MCHC-32.3 RDW-12.5 RDWSD-44.1 Plt ___
___ 05:40AM BLOOD ___ PTT-31.7 ___
___ 05:40AM BLOOD Glucose-96 UreaN-15 Creat-1.0 Na-146 
K-4.6 Cl-110* HCO3-20* AnGap-16
___ 05:40AM BLOOD Calcium-8.9 Phos-3.9 Mg-2.0
___ 12:08PM BLOOD ALT-19 AST-19 AlkPhos-100 TotBili-0.2
___ 12:08PM BLOOD Lipase-26
___ 12:08PM BLOOD cTropnT-<0.01
___ 12:08PM BLOOD TSH-1.4

___ 2:28 ___ CT HEAD W/O CONTRAST 
No acute intracranial process.

 
Brief Hospital Course:
Ms. ___ is a ___ transgender woman with history 
notable for migraines, depression, anorexia, and febrile 
seizures presenting for evaluation of three months of episodes 
of decreased neck and appendicular tone, bradypnea, and 
unresponsiveness, punctuated prior to admission by a 
non-traumatic fall with a protracted period of generalized 
weakness though preserved awareness and recollection of the 
event. Several symptomatic episodes, including brief episodes of 
decreased responsiveness and neck/appendicular tone, as well as 
a prominent episode associated with generalized weakness 
consistent with the episode noted prior to presentation, were 
captured on EEG without electrographic correlate, with an 
otherwise normal background recording.

Given the description of the events, particularly with preserved 
memory and at times awareness, as well as the absence of a 
post-ictal state or electographic correlate, these non-epileptic 
spells were felt to likely reflect an underlying functional 
neurological disorder. Counseling regarding functional 
neurological disorders and their management was provided, and 
patient was notified of ___ statutes regarding driving 
restrictions following episodes of alteration of consciousness.

TRANSITIONAL ISSUES
1. Outpatient follow-up with PCP and neurologist as above.
2. Referral to psychiatric provider as above.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN Pain - 
Severe 
2. Sumatriptan Succinate 100 mg PO ONCE Migraine  
3. Topiramate (Topamax) 100 mg PO DAILY 
4. Estradiol 2 mg PO TID 
5. Escitalopram Oxalate 20 mg PO DAILY 
6. Ranitidine 150 mg PO QHS 
7. Propranolol LA 80 mg PO DAILY 
8. Ferrous Sulfate 27 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN Pain - 
Severe  
2.  Escitalopram Oxalate 20 mg PO DAILY  
3.  Estradiol 2 mg PO TID  
4.  Ferrous Sulfate 27 mg PO DAILY  
5.  Propranolol LA 80 mg PO DAILY  
6.  Ranitidine 150 mg PO QHS  
7.  Sumatriptan Succinate 100 mg PO ONCE Migraine  Duration: 1 
Dose  
8.  Topiramate (Topamax) 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-epileptic spells

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted due to concern for seizures after a brief 
episode of unresponsiveness accompanied by a fall and subsequent 
weakness, in the setting of multiple recent spells of decreased 
responsiveness. 

You had CT head imaging of your brain and continuous EEG where 
episodes similar to the ones that brought you into the hospital 
were captured, without any seizures seen on EEG.

Based on the description of your episodes and the absence of 
seizures on EEG, these episodes are likely non-epileptic spells 
arising from a functional neurological disorder (FND). The 
treatment for functional neurological disorders involves 
coordinated care between neurology and psychiatry providers, 
with whom you should establish care when you return to ___ 
___. You may also refer to neurosymptoms.org for more 
information about this condition.

Please follow up with your primary care provider within one week 
of discharge and your outpatient neurologist at your scheduled 
appointment. Please also establish care with a psychiatry 
provider. Your primary care provider may choose to refer you to 
the non-epileptic spell program run by Dr. ___ at 
___.

It was a pleasure taking care of you at ___.

Sincerely,
___ Neurology
 
Followup Instructions:
___